* File: /home/axon/srk180000/cad/gf65/Spring2022_lvs/INV.pex.sp.pex
* Created: Mon Mar  7 19:41:52 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV%GND! 1 6 9 11 18
r20 9 13 0.0248006
r21 9 11 0.0796619
r22 6 18 10
r23 4 13 0.0209012
r24 4 6 1.21925
r25 1 13 30
.ends

.subckt PM_INV%OUT 3 8 15 18 20 21
r24 18 24 0.144042
r25 18 23 0.12741
r26 15 18 1.7
r27 11 20 15
r28 8 11 0.738351
r29 8 24 0.830645
r30 8 20 10
r31 3 23 0.636342
r32 3 21 10
.ends

.subckt PM_INV%VDD! 1 6 12 14 20
r19 12 16 0.0248006
r20 12 14 0.0919175
r21 10 20 15
r22 6 10 0.738351
r23 6 20 10
r24 4 16 0.0209012
r25 4 10 1.01523
r26 1 16 30
.ends

.subckt PM_INV%IN 4 8 9 11 13 20
r39 19 20 25
r40 13 20 1.7
r41 9 19 10.725
r42 9 11 105.983
r43 4 19 6.59172
r44 3 8 52.9915
r45 3 4 23.3162
.ends

